US05681833
2. 2-[N-(2-chloroacetyl)-N-tert-butylamino]benzophenone
A mixture of 2-(tert-butylamino)benzophenone (7.5 g) and chloroacetyl chloride (20 ml) in anhydrous toluene (250 ml) was refluxed for 2 hours under nitrogen. Solvents were removed under vacuum and the remaining residue was dissolved in ethyl acetate (250 ml), washed with 5% sodium bicarbonate solution, dried (MgSO4) and concentrated. Flash chromatography of the residue (silica gel, toluene-ethyl acetate, 99:1 to 95:5) gave the title compound (7 g) as a solid; δH (360 MHz, CDCl3) 7.87-7.84 (2H, m), 7.68-7.46 (6H, m), 7.36 (1H, d, J=7.7 Hz), 4.05 (1H, d, J=13.2 Hz), 3.72 (1H, d, J=13.2 Hz), 1.27 (9H, s); m/z (CI) 329 (M-).

reactant | 2-(tert-butylamino)benzophenone | 7.5 g | C(C)(C)(C)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C17H19NO
reactant | chloroacetyl chloride | 20 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[N-(2-chloroacetyl)-N-tert-butylamino]benzophenone | 7 g | ClCC(=O)N(C(C)(C)C)C1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C19H20ClNO2
